US09102607B2
19 g (78 mmol) of dibenzoyl peroxide are dissolved in 125 ml of chloroform at −5° C. 2.2 g (94 mmol) of sodium dissolved in 50 ml of methanol under a stream of nitrogen are added dropwise. After stirring at −5° C. for 30 minutes, ice-cold water is added and the medium is acidified with a 2N aqueous hydrochloric acid solution. Extraction with dichloromethane is carried out and then the organic phase is dried over magnesium sulphate, filtered and concentrated. 9 g of benzenecarboperoxoic acid are obtained in the form of a white solid with a yield of 83%.

reactant | dibenzoyl peroxide | 78 mmol, 19 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | sodium | 94 mmol, 2.2 g | [Na] | Na
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | chloroform | 125 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 50 ml | CO | CH4O
product | benzenecarboperoxoic acid | 9 g, yield of 83% | C1(=CC=CC=C1)C(=O)OO | C7H6O3
